US03988510
Preparation of (2-Methyl-3-Furyl) (Methylthiomethyl) Sulfide
Into a 25 ml round bottom flask equipped with magnetic stirrer, thermometer, water bath, and reflux condenser is added a solution containing 0.27 g of sodium methoxide (0.005 moles) in 3 ml. absolute methanol. While maintaining the solution at 25° - 30° C, 0.57 g (0.005 moles) of 2-methyl-3-furan thiol in 2 ml of absolute methanol is added thereto. At 25° C, 0.483 g (0.005 moles) of chloromethyl methyl sulfide having the formula:

reactant | sodium methoxide | 0.005 moles, 0.27 g | C[O-].[Na+]
reactant | 2-methyl-3-furan thiol | 0.005 moles, 0.57 g | CC=1OC=CC1S | C5H6OS
reactant | chloromethyl methyl sulfide | 0.005 moles, 0.483 g | CSCCl | C2H5ClS
solvent | methanol | 2 ml | CO | CH4O
product | (2-Methyl-3-Furyl) (Methylthiomethyl) Sulfide | CSCSC1=C(OC=C1)C | C7H10OS2
